US05442115
A suspension of 177 g (1.0 mole) of acetoacetanilide in 1440 ml of toluene and 167 ml of water, in a chlorinator (2000 ml 3-neck flask), was cooled to approximately 6° C. and chlorine gas was added at about the rate of 1.5 g/minute, while maintaining the temperature at 6° C. until 82.6 g (1.16 moles) of chlorine had been added (about 56 minutes). The resultant mixture was stirred for an additional 36 minutes and then heated to 70° C. for 15 minutes. The mixture was then cooled and the product was precipitated. The precipitate was filtered from the toluene/aqueous HCl mixture to give 134.8 g (63.9%) of α-chloroacetoacetanilide, mp 132°-134° C.

reactant | acetoacetanilide | 1.0 mole, 177 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | chlorine | ClCl | Cl2
reactant | chlorine | 1.16 moles, 82.6 g | ClCl | Cl2
solvent | toluene | 1440 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 167 ml | O | H2O
product | α-chloroacetoacetanilide | 134.8 g, 63.9% | ClC(C(=O)NC1=CC=CC=C1)C(=O)C | C10H10ClNO2
